US07342131B2
Nicotinic acid chloride (2.56 g, 20 mmol) and 30 mg of DMAP were added to a mixture of 2-bromo-2-propanol (2.8 g, 20 mmol), triethylamine (5.6 mL, 20 mmol) in dichloromethane at 0° C. The resulting mixture was stirred at room temperature overnight. The product was partitioned between ethyl acetate and water. The organic phase was separated, dried over MgSO4, and concentrated to yield 1-Bromoisopropyl nicotinate, which was used in the next reaction without further purification.

reactant | Nicotinic acid chloride | 20 mmol, 2.56 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | 2-bromo-2-propanol | 20 mmol, 2.8 g | BrC(C)(C)O | C3H7BrO
reactant | triethylamine | 20 mmol, 5.6 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 30 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Bromoisopropyl nicotinate | C(C1=CN=CC=C1)(=O)OC(C)(C)Br | C9H10BrNO2
